2143-12-24 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt. being diuresed yesterday with good effect.  She is remained
   asymptomatic, free of chest pain or shortness of breath, denies n/v,
   diaphoresis.  She was in A fib o/n, in and out.  Require lytes
   replacement.  Amiodarone decreased to 0.5mg/min.
   Allergies:
   Lisinopril
   dizziness
   vert
   Last dose of Antibiotics:
   Infusions:
   Eptifibatide (Integrilin) - 1 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-12-24**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 86 (74 - 89) bpm
   BP: 127/37(62) {113/37(62) - 141/77(86)} mmHg
   RR: 23 (20 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                     96 mL
                                                                    738 mL
   PO:
             TF:
   IVF:
                                                                     96 mL
                                                                    738 mL
   Blood products:
   Total out:
                                                                  1,360 mL
                                                                  1,550 mL
   Urine:
                                                                    260 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,264 mL
                                                                   -812 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) JVP 5cm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: tachypneic, (Expansion: Symmetric), (Breath
   Sounds: Clear : anteriorly, posteriorly crackles
 up posterior lung
   fields).
   Abdominal: Soft, Non-tender
   Extremities: no edema b/l warm.  .
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   207 K/uL
   11.1 g/dL
   123 mg/dL
   1.2 mg/dL
   29 mEq/L
   2.9 mEq/L
   18 mg/dL
   99 mEq/L
   140 mEq/L
   31.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2143-12-23**]  10:52 PM
                             [**2143-12-23**]  11:26 PM
                             [**2143-12-24**]  04:04 AM
   WBC
   11.7
   Hct
   31.1
   Plt
   203
   207
   Cr
   1.2
   TropT
   2.71
   4.32
   Glucose
   123
   Other labs: PT / PTT / INR:13.5/25.8/1.2, CK / CKMB /
   Troponin-T:1148/76/4.32, Ca++:8.6 mg/dL, Mg++:1.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   80 year-old woman with a history of hyperlipidemia and hypertension,
   presenting with a STEMI, based on CCath, nature likely embolic and not
   thrombotic.
   # CORONARIES:  Found to have occluded LAD lesion which was
   angiopastied.  Also with RCA and LCx disease.  Risk factors include
   hypertension and hyperlipidemia with LDL >100 on pravastatin 20.
   Appears to have had muscle aches on atorvastatin and simvastatin.
   - Continue with aspirin and plavix
   - Continue pravastatin
   - Will complete  Integrillin infusion
   - Will start captopril 6.25 TID and beta-blocker 12.5mg TID
   - Trend CKs as not reached peak yet.
   # PUMP:  No echo in our system.  Currently satting well though noted to
   have elevated wedge in lab (28).  Still volume overloaded on exam.
   - F/U Check echo in AM
   - ACEI as above
   - Continue diuresis w/ Lasix, goal
 1.5 to 2L
   -
   # RHYTHM:  Currently in afib with rate in the 70 - 90s.
   - d/c amiodarone as no effect on afib
   - If pt continues to be in afib tomorrow, will consider cardioversion
   w/ TEE
   - Will hold off on heparin, as pt. likely to convert
   - Will consider OP coumadin
   FEN:  Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx
 heparin SC
   -Bowel regimen
   CODE: Presumed full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control: Blood sugar well controlled
   Lines:
   Arterial Line - [**2143-12-23**] 10:45 PM
   20 Gauge - [**2143-12-23**] 11:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, integrillin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:   Monitor in CCU for an additional day.

2143-12-25 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   80 year-old woman with a history of hyperlipidemia and hypertension,
   presenting with a STEMI.
   24 Hour Events:
   The patient's amiodarone was stopped.  She had afib with RVR with rates
   in the 130's to 140's in the afternoon.  She was given 5 mg IV
   metoprolol x 1 and her po metoprolol was increased to 25 mg po tid.
   Her K was repleted.  She converted back into NSR with the metoprolol.
   CTsurg was contact[**Name (NI) **] to evaluate her for CABG.
   She denies SOB, CP, dizziness or lightheadedness.  Walked OOB to
   commode.
   Allergies:
   Lisinopril
   dizziness
   vert
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2143-12-24**] 10:00 AM
   Metoprolol - [**2143-12-24**] 02:10 PM
   Heparin Sodium (Prophylaxis) - [**2143-12-24**] 10:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-12-25**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 70 (68 - 145) bpm
   BP: 121/52(70) {94/52(66) - 140/82(96)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  1,918 mL
                  PO:
                                                                    980 mL
                  TF:
   IVF:
                                                                    938 mL
   Blood products:
   Total out:
                                                                  2,965 mL
                                                                    170 mL
   Urine:
                                                                  2,965 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,047 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Tele:  PVs 70s w/ couplets and PVCs.
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) JVP 5cm
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: tachypneic, (Expansion: Symmetric), (Breath
   Sounds: Clear : anteriorly, posteriorly rhonchi
 up posterior lung
   fields).
   Abdominal: Soft, Non-tender
   Extremities: no edema b/l warm.  .
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   210 K/uL
   11.1 g/dL
   96 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.6 mEq/L
   22 mg/dL
   99 mEq/L
   140 mEq/L
   31.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2143-12-23**]  10:52 PM
                             [**2143-12-23**]  11:26 PM
                             [**2143-12-24**]  04:04 AM
                             [**2143-12-24**]  01:51 PM
                             [**2143-12-25**]  04:35 AM
   WBC
   11.7
   9.9
   Hct
   31.1
   31.7
   Plt
   [**Telephone/Fax (3) 2579**]
   Cr
   1.2
   1.2
   1.3
   TropT
   2.71
   4.32
   3.11
   Glucose
   123
   159
   96
   Other labs: PT / PTT / INR:12.6/24.4/1.1, CK / CKMB /
   Troponin-T:311/13/2.11, ALT / AST:21/46, Alk Phos / T Bili:55/0.9,
   Albumin:3.4 g/dL, LDH:353 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   TTE showed  Suboptimal image quality. Mild distal septal and apical
   hypokinesis with preserved left ventricular ejection fraction, EF of
   45-50% vs 55% (discordant in the report). Mild pulmonary hypertension.
   Assessment and Plan
   80 year-old woman with a history of hyperlipidemia and hypertension,
   presenting with a STEMI, based on CCath, nature likely embolic and not
   thrombotic.
   # CORONARIES:  Found to have occluded LAD lesion which was
   angiopastied.  Also with RCA and LCx disease.  Risk factors include
   hypertension and hyperlipidemia with LDL >100 on pravastatin 20.
   Appears to have had muscle aches on atorvastatin and simvastatin.  CKs
   peaked at 1148
   - Continue with aspirin and plavix
   - Continue pravastatin
   - Continue captopril 6.25 TID and beta-blocker 25mg TID
   - ? RCA PCI in am, will discuss w/ team.  Discuss w/ family and pt. re:
   PCA
   # PUMP:  EF 40-50%, Mild distal septal and apical hypokinesis.
   Currently satting well, no other signs of volume overload.
   - ACEI as above
   - will stop diuresis as euvolemic and no new O2 requirement.
   -
   # RHYTHM:  Currently in afib with rate in the 70 - 90s.
   - d/c amiodarone as no effect on afib
   - If pt continues to be in afib tomorrow, will consider cardioversion
   w/ TEE
   - Will hold off on heparin, as pt. likely to convert
   - Will consider OP coumadin
   # Pulm
 diffuse rhonchi on exam.  Possibly bronchospasm [**2-23**] pulm edema
   from HF during previous two days.  No vascular congestion on XR from
   [**12-24**]
   -          nebs prn
   -          will repeat CXR if no improvement in AM.
   -          Spirometry
   FEN:  Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx
 heparin SC
   -Bowel regimen
   CODE: Presumed full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:  not an issue.
   Lines:
   20 Gauge - [**2143-12-23**] 11:00 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  NA
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Will likely transfer to floor today.  Ambulate x3 today.
   PT consult.